* C:\Users\DELL\OneDrive\Documents\LTspice\adc3bit.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N002 N003 1k
R2 N003 N007 1k
R3 N007 N009 1k
R4 N009 N012 1k
R5 N012 N014 1k
R6 N014 N018 1k
R7 N018 N019 1k
R8 N019 0 1k
V1 N002 0 1.8
X§X1 N003 N005 N001 N006 N004 opamp
X§X2 N007 N005 N001 N006 N008 opamp
X§X3 N009 N005 N001 N006 N011 opamp
X§X4 N012 N005 N001 N006 N013 opamp
X§X5 N014 N005 N001 N006 N015 opamp
X§X6 N018 N005 N001 N006 N016 opamp
V2 N005 0 SINE(0.9 0.9 1)
V4 N001 0 1.8
X§X7 N019 N005 N001 N006 N017 opamp
V5 N006 0 0
X§X8 N010 0 N004 N008 N011 N013 N015 N016 N017 B2 B1 B0 encoder2
V3 N010 0 1.8

* block symbol definitions
.subckt opamp V1 V2 VDD1 vss vout
M1 N002 V1 N003 vss CMOSN l=1u w=5u
M2 N001 V2 N003 vss CMOSN l=1u w=5u
M3 VDD1 N002 N002 VDD1 CMOSP l=1u w=6u
M4 VDD1 N002 N001 VDD1 CMOSP l=1u w=6u
M5 N003 N004 vss vss CMOSN l=1u w=4.2u
M6 N004 N004 vss vss CMOSN l=1u w=4.2u
Io1 vss N004 30µ
Cl1 Vout vss 2p
M7 VDD1 N001 Vout VDD1 CMOSP l=1u w=85u
C1 P001 N001 1p
M8 Vout N004 vss vss CMOSN l=1u w=30u
R1 Vout P001 1000
.ends opamp

.subckt encoder2 VDD vss I1 I2 I3 I4 I5 I6 I7 B2 B1 B0
X§X1 VDD N001 vss I4 I5 and_gate
X§X2 VDD N002 vss I6 I7 and_gate
X§X3 VDD B2 vss N001 N002 and_gate
X§X4 VDD vss N003 I2 I4 xor_gate
X§X5 VDD vss N004 N003 I6 xor_gate
X§X6 VDD vss N009 I3 I5 xor_gate
X§X7 VDD vss N008 N006 N009 xor_gate
X§X8 VDD vss B0 N007 I7 xor_gate
R1 B1 N004 1k
C1 B1 vss 1n
X§X9 VDD vss N005 B1 I1 xor_gate
R2 N006 N005 1k
C2 0 N006 1n
R3 N007 N008 1k
C3 0 N007 1n
.ends encoder2

.subckt and_gate VDD vout vss a b
M1 N001 a VDD VDD PMOS
M2 N001 b VDD VDD PMOS
M3 N001 a N002 N002 NMOS
M4 N002 b vss vss NMOS
M5 vout N001 vss vss NMOS
M6 vout N001 VDD VDD PMOS
.ends and_gate

.subckt xor_gate VDD vss vout a b
M1 N002 b VDD VDD PMOS
M2 N004 N003 N002 N002 PMOS
M3 N002 N001 VDD VDD PMOS
M4 N004 a N002 N002 PMOS
M5 N004 b N005 N005 NMOS
M6 N005 N001 vss vss NMOS
M7 N004 N003 N006 N006 NMOS
M8 N006 a vss vss NMOS
M9 N001 a vss vss NMOS
M10 N001 a VDD VDD PMOS
M11 N003 b VDD VDD PMOS
M12 vout N004 VDD VDD PMOS
M13 N003 b vss vss NMOS
M14 vout N004 vss vss NMOS
.ends xor_gate

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\DELL\AppData\Local\LTspice\lib\cmp\standard.mos
.INCLUDE tsmc018.lib
* .ac dec 100 1 1g
.tran 2
.backanno
.end
